US05264577
Step B: Preparation of Ethyl α-nitro-9H-thioxanthene-9-acetate
Crude 9-hydroxythioxanthene (9.58 g, 45 mmol) is mixed with ethyl nitroacetate (5.5 mL, 49 mmol) and heated at 100° C. for 1 hour. TLC (SiO2, hexane:2-propanol/3:1) after 45 minutes shows no starting material. The cooled reaction mixture is treated with 100 mL of ethanol and 39 mL of 1.25 M ethanolic potassium hydroxide solution. Ethanol is stripped and the residue taken up in water and extracted with diethyl ether. The aqueous layer is acidified to pH 2 to 3 with 85% phosphoric acid solution and refrigerated overnight. A crystalline solid is collected by filtration and dried at 50° C./10 mm Hg. A total of 8.4 g of the title compound is collected in three crops; mp 111°-115° C.

reactant | 9-hydroxythioxanthene | 45 mmol, 9.58 g | OC1C2=CC=CC=C2SC=2C=CC=CC12 | C13H10OS
reactant | ethyl nitroacetate | 49 mmol, 5.5 mL | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | hexane | CCCCCC | C6H14
reactant | potassium hydroxide | 1.25 M, 39 mL | [OH-].[K+]
solvent | water | O | H2O
solvent | Ethanol | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | 2-propanol | CC(C)O | C3H8O
product | Ethyl α-nitro-9H-thioxanthene-9-acetate | [N+](=O)([O-])C(C(=O)OCC)C1C2=CC=CC=C2SC=2C=CC=CC12 | C17H15NO4S
